US07196104B2
Preparation EG: 1′-Methyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,4′]bipyridinyl-6-ylamine
A solution of 1′-methyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl-6-ylamine (1.1 g, 5.8 mmol) and EtOH (30 mL) was hydrogenated over 20% Pd(OH)2/C (0.3 g) at 40 psi and RT. After 16 h, the mixture was filtered through Celite® and concentrated in vacuo to give the desired compound as a yellow solid. MS m/z: 192.1 (M+H). Calc'd for C11H17N3-191.27.

reactant | 1′-methyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl-6-ylamine | 5.8 mmol, 1.1 g | CN1CCC(=CC1)C1=NC(=CC=C1)N | C11H15N3
catalyst | Pd(OH)2/C | 0.3 g | [OH-].[OH-].[Pd+2]
solvent | EtOH | 30 mL | CCO | C2H6O
product | 1′-Methyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,4′]bipyridinyl-6-ylamine | CN1CCC(CC1)C1=NC(=CC=C1)N | C11H17N3
